US06723725B1
A solution of 4-carboxy-3-(4-chlorobenzoyl)indole and 2-chloro-1-methylpyridinium iodide in N-methylpyrrolidone (NMP) is treated with a solution of 4-phenethylpiperazine and ethyldiisopropylamine (EDIPA) in NMP and subsequently stirred at room temperature for 3 hours. The mixture is worked up in the customary manner and the crude product is obtained. This is dissolved in acetone and the hydrochloride is precipitated using aqueous hydrochloric acid. After drying, [3-(4-chlorobenzoyl)-1H-indol-4-yl]-4-phenethylpiperazin-1-ylmethanone, hydrochloride hydrate, m.p. 187.4°, is obtained.

reactant | 4-carboxy-3-(4-chlorobenzoyl)indole | C(=O)(O)C1=C2C(=CNC2=CC=C1)C(C1=CC=C(C=C1)Cl)=O | C16H10ClNO3
reactant | 2-chloro-1-methylpyridinium iodide | [I-].ClC1=[N+](C=CC=C1)C
reactant | 4-phenethylpiperazine | C(CC1=CC=CC=C1)N1CCNCC1 | C12H18N2
reactant | ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | acetone | CC(=O)C | C3H6O
product | [3-(4-chlorobenzoyl)-1H-indol-4-yl]-4-phenethylpiperazin-1-ylmethanone, hydrochloride hydrate | O.Cl.ClC1=CC=C(C(=O)C2=CNC3=CC=CC(=C23)C(=O)N2CCN(CC2)CCC2=CC=CC=C2)C=C1 | InChI=1S/C28H26ClN3O2.ClH.H2O/c29-22-11-9-21(10-12-22)27(33)24-19-30-25-8-4-7-23(26(24)25)28(34)32-17-15-31(16-18-32)14-13-20-5-2-1-3-6-20;;/h1-12,19,30H,13-18H2;1H;1H2
